Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Admission for revision left total hip arthroplasty   

 
Major Surgical or Invasive Procedure:
___ s/p 1. Left hip revision total hip arthroplasty; 2. 
Removal of articulating antibiotic cement spacer.

 
History of Present Illness:
___ with HCV cirrhosis and h/o left hip arthroplasty in ___. He 
developed left hip pain in ___ and was found to have coag neg 
Staph prosthetic joint infection. In ___ he was admitted for 
removal of the hardware and placement of an antibiotic spacer, 
and he received 6 weeks of IV vanc. He was readmitted ___ 
and taken to the OR for removal of the spacer and replacement of 
hip hardware. 
 
Past Medical History:
- Hepatitis C (genotype Ia, VL 595,500 ___ at last liver
clinic visit). He believes was treated late ___/early ___
with IFN + Ribavarin x 6mo, response unknown
- EtOH abuse with prior withdrawals, no seizures  
- GAS bacteremia and septic shock, acute respiratory failure,
pneumonia, delerium/EtOH withdrawal, hospitalized at ___, ___. Treated with IV penicillin for 17 days and
IV vancomycin for first several days. 
- Left total hip arthroplasty ___ following an injury where he 
developed osteonecrosis of the femoral head; complicated by Coag 
neg Staph infection s/p removal of hardware and placement of 
cement antibiotic spacer ___   
- GERD  
- Anemia  
- COPD  
- Anxiety  
- BPH 
- Right knee ACL meniscectomy ___
- Fractured left wrist with subsequent fixation
- Right rotator cuff repair  
 
Social History:
___
Family History:
Mother died from uterine cancer last year.
 
Physical Exam:
Well appearing in no acute distress
Afebrile with stable vital signs
 Pain well-controlled
 Respiratory: CTAB
 Cardiovascular: RRR
 Gastrointestinal: NT/ND
 Genitourinary: Voiding independently
 Neurologic: Intact with no focal deficits
 Psychiatric: Pleasant, A&O x3
 Musculoskeletal Lower Extremity:
  *   Incision healing well with staples
  *   Scant serosanguinous drainage
  *   Thigh full but soft
  *   No calf tenderness
  *   ___ strength ___
  *   SILT DP/SP/T/S/S
  *   Toes warm

 
Pertinent Results:
___ 07:00AM BLOOD WBC-4.1 RBC-2.82* Hgb-9.2* Hct-26.4* 
MCV-94 MCH-32.7* MCHC-34.9 RDW-16.9* Plt Ct-98*
___ 06:40AM BLOOD WBC-4.4 RBC-2.29* Hgb-7.5* Hct-22.0* 
MCV-96 MCH-32.9* MCHC-34.3 RDW-16.2* Plt Ct-82*
___ 04:59AM BLOOD WBC-5.8 RBC-2.47* Hgb-8.4* Hct-24.0* 
MCV-97 MCH-33.9* MCHC-35.0 RDW-16.5* Plt Ct-76*
___ 03:43AM BLOOD WBC-5.3 RBC-2.81* Hgb-9.2* Hct-26.5* 
MCV-94 MCH-32.8* MCHC-34.9 RDW-16.8* Plt Ct-83*
___ 11:10PM BLOOD WBC-5.9 RBC-2.86* Hgb-9.4* Hct-26.3* 
MCV-92# MCH-32.9* MCHC-35.7* RDW-16.6* Plt Ct-78*
___ 06:10PM BLOOD WBC-8.1 RBC-2.69* Hgb-9.1* Hct-26.9* 
MCV-100* MCH-33.8* MCHC-33.9 RDW-15.4 Plt ___
___ 04:50PM BLOOD WBC-7.6# RBC-2.73*# Hgb-9.0*# Hct-27.2*# 
MCV-100* MCH-32.8* MCHC-32.9 RDW-15.4 Plt ___
___ 04:59AM BLOOD ___ PTT-37.2* ___
___ 03:43AM BLOOD ___ PTT-34.1 ___
___ 04:50PM BLOOD ___ PTT-36.5 ___
___ 04:50PM BLOOD ___
___ 07:00AM BLOOD Glucose-96 UreaN-8 Creat-0.8 Na-136 K-3.8 
Cl-106 HCO3-25 AnGap-9
___ 06:40AM BLOOD Glucose-100 UreaN-12 Creat-0.7 Na-139 
K-3.8 Cl-111* HCO3-25 AnGap-7*
___ 04:59AM BLOOD Glucose-106* UreaN-23* Creat-1.1 Na-135 
K-4.2 Cl-107 HCO3-24 AnGap-8
___ 03:43AM BLOOD Glucose-114* UreaN-16 Creat-0.9 Na-137 
K-4.9 Cl-108 HCO3-25 AnGap-9
___ 06:10PM BLOOD Glucose-150* UreaN-14 Creat-0.7 Na-139 
K-3.8 Cl-107 HCO3-23 AnGap-13
___ 04:59AM BLOOD Calcium-7.8* Phos-3.2 Mg-2.2
___ 03:43AM BLOOD Calcium-8.1* Phos-3.1 Mg-1.8
___ 06:10PM BLOOD Calcium-8.7 Phos-4.3 Mg-1.4*
 
Brief Hospital Course:
The patient was admitted to the orthopaedic surgery service and 
was taken to the operating room for above described procedure. 
Please see separately dictated operative report for details. The 
surgery was uncomplicated and the patient tolerated the 
procedure well. Patient received perioperative IV antibiotics.
 
During the procedure a bone specimen was sent for frozen section 
which revealed no neutrophils and no evidence of acute 
infection. The procedure was complicated by hypotension (SBP in 
the ___ and 2L blood loss for which he received 4u PRBCs, 1u 
platelets, 2u FFP, 200ml cell saver, 6L LR, and was started on 2 
pressors (phenylephrine and norepinephrine). He remained 
intubated post-procedure on propofol, and the norepi was weaned 
off. UOP was 1420ml. He received vanc 1000mg x 2 doses and 
cephazolin 2g IV x3 doses in the PACU. On arrival to the MICU 
patient remained intubated on pressure support ___, 40%, on 
propofol 50mcg/kg/min. The phenylephrine was weaned off with SBP 
in the high ___ 100s. (Please see below for details of ICU 
course.) He was extubated POD#1, remained HD stable and was 
transferred to the floor on POD#2.  He required additional 
2units PRBC for HCT 22 on POD#3, to which he responded 
appropriately with a post transfusion Hct 26.4.

Otherwise, once extubated pain was initially controlled with IV 
medicatiob followed by transition to oral pain medications on 
POD#1.  The patient received lovenox for DVT prophylaxis 
starting on the morning of POD#1.  The foley was removed on 
POD#3 and the patient was voiding independently thereafter. The 
surgical dressing was 
changed on POD#2 and the surgical incision was found to be clean 
and intact without erythema or abnormal drainage. The patient 
was seen daily by physical therapy. Labs were checked throughout 
the hospital course and repleted accordingly. At the time of 
discharge the patient was tolerating a regular diet and feeling 
well.  The patient was afebrile with stable vital signs.  The 
patient's hematocrit was acceptable and pain was adequately 
controlled on an oral regimen. The operative extremity was 
neurovascularly intact and the wound was benign. 
 
The patient's weight-bearing status is TDWB with abduction brace 
(90deg flexion and 20deg abduction) on at all times, ambulate 
with crutches or walker x 6 weeks. Abduction pillow on at night 
x 6 weeks.

Mr. ___ is discharged to rehab in stable condition on POD4.

_
_
_
_
_
_
_
_
_
_
_
_
________________________________________________________________
FICU course below:
# Hypotension: Patient was hypotensive in the OR in the setting 
of 2L blood loss and sedation, and received 6L LR and 4u PRBCs 
with rise in HCT. Upon arrival to the ICU he was weaned off 
pressors and remained normotensive (SBP high ___ - low 100s 
which appears to be his baseline in setting of liver disease). 
Hct remained stable at 26 with no signs of bleeding.  As a 
result, he was transferred back to the ortho service.
.
# Respiratory: Patient was intubated for the left hip 
arthroplasty. He was weaned to pressure support upon arrival to 
the ICU and was extubated shortly thereafter. O2 sats are in the 
high ___ on room air.   
.
# Left hip infection/arthroplasty: Continued vancomycin 
overnight in the ICU while culture data is pending. Also 
continued lovenox for DVT prophylaxis. Pain was well controlled 
with standing tylenol, ketorolac, and dilaudid prn.  
.
# Etoh use: Patient reports distant history of etoh abuse but 
has been sober for the past several years. There were no signs 
of etoh withdrawal and no indication for CIWA. We started a 
multivitamin, thiamine, and folate. 
.
# Thrombocytopenia: Chronic, likely secondary to both etoh abuse 
and patient's suspected cirrhosis.  
. 
# Elevated right hemidiaphragm: More prominent on current CXR 
compared to the film from ___, though may be due to the 
fact that the patient was intubated with poor inspiratory 
effort. Recommend repeat CXR to reassess now that patient is 
extubated, and if persistent patient will need outpatient f/u 
for this. 
.
# BPH: Continued tamsulosin.
 
Medications on Admission:
1. Ferrous Sulfate 325 mg PO DAILY 
2. Magnesium Oxide 800 mg PO TID 
3. Furosemide 40 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Enoxaparin Sodium 40 mg SC Q24HR 
6. Zolpidem Tartrate 10 mg PO HS Insomnia 
7. Senna 1 TAB PO BID 
8. OxycoDONE (Immediate Release)  15 mg PO Q4H 
9. Tamsulosin 0.4 mg PO HS 
10. Acetaminophen 650 mg PO Q6H:PRN Pain 
11. Terbinafine 1% Cream 1 Appl TP BID 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Ferrous Sulfate 325 mg PO DAILY 
3. Senna 1 TAB PO BID 
4. Tamsulosin 0.4 mg PO HS 
5. Terbinafine 1% Cream 1 Appl TP BID 
6. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg Take ___ tablets by mouth every 4 hours Disp 
#*25 Tablet Refills:*0
7. Multivitamins 1 TAB PO DAILY 
8. Furosemide 40 mg PO DAILY 
9. Magnesium Oxide 800 mg PO TID 
10. Zolpidem Tartrate 10 mg PO HS Insomnia 
11. Acetaminophen 650 mg PO Q6H 
12. Enoxaparin Sodium 40 mg SC DAILY Duration: 4 Weeks (Last 
dose: ___
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left hip prosthetic joint infection, total hip arthroplasty with 
coagulase-negative Staphylococcus infection.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.

2. Please follow up with your primary physician regarding this 
admission and any new medications and refills.  

3. Resume your home medications unless otherwise instructed.

4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as colace) as needed to prevent 
this side effect.  Call your surgeons office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your house.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.

5. You may not drive a car until cleared to do so by your 
surgeon.

6. Please keep your wounds clean. You may shower starting five 
(5) days after surgery, but no tub baths or swimming for at 
least four (4) weeks. No dressing is needed if wound continues 
to be non-draining. Any stitches or staples that need to be 
removed will be taken out by the visiting nurse (___) or rehab 
facility three weeks after your surgery.

7. Please call your surgeon's office to schedule or confirm your 
follow-up appointment in four (4) weeks.

8. Please DO NOT take any non-steroidal anti-inflammatory 
medications (NSAIDs such as celebrex, ibuprofen, advil, aleve, 
motrin, etc).

9. ANTICOAGULATION: Please continue your lovenox for four (4) 
weeks to help prevent deep vein thrombosis (blood clots).  If 
you were taking aspirin prior to surgery, you may resume you 
pre-operative dose while taking lovenox.  ___ STOCKINGS x 6 
WEEKS.

10. WOUND CARE: Please keep your incision clean and dry. It is 
okay to shower five days after surgery but no tub baths, 
swimming, or submerging your incision until after your four (4) 
week checkup. Please place a dry sterile dressing on the wound 
each day if there is drainage, otherwise leave it open to air. 
Check wound regularly for signs of infection such as redness or 
thick yellow drainage. Staples will be removed by the visiting 
nurse or rehab facility in three (3) weeks.

11. ___ (once at home): Home ___, dressing changes as 
instructed, wound checks, and staple removal at 3 weeks after 
surgery.

12. ACTIVITY: TOUCHDOWN WEIGHT BEARING with abduction brace 
(90deg flexion and 20deg abduction) on at all times, ambulate 
with crutches or walker x 6 weeks. Abduction pillow on at night 
x 6 weeks. Posterior precautions. No strenuous exercise or heavy 
lifting until follow up appointment.  Mobilize frequently.

Physical Therapy:
TDWB until follow-up visit
Abduction brace AAT when OOB x 3 months
Abduction/wedge pillow x 6 weeks
Mobilize

Treatments Frequency:
Dry sterile dressing daily as needed for drainage
Wound checks
Ice
TEDs x 6 weeks
*Staple removal POD 21, replace with steristrips*
 
Followup Instructions:
___